* /home/mallikarjuna/downloads/esim-1.1.2/src/subcircuitlibrary/7485/7485.cir

.include 5_nor.sub
.include 4_and.sub
.include 3_and.sub
.include 5_and.sub
* u6  net-_u1-pad15_ net-_u18-pad2_ net-_u14-pad1_ d_and
* u2  net-_u1-pad15_ net-_u1-pad1_ net-_u18-pad2_ d_nand
* u7  net-_u18-pad2_ net-_u1-pad1_ net-_u14-pad2_ d_and
* u14  net-_u14-pad1_ net-_u14-pad2_ net-_u14-pad3_ d_nor
* u19  net-_u1-pad1_ net-_u18-pad2_ net-_u19-pad3_ d_and
* u18  net-_u1-pad15_ net-_u18-pad2_ net-_u18-pad3_ d_and
* u8  net-_u1-pad13_ net-_u3-pad3_ net-_u15-pad1_ d_and
* u3  net-_u1-pad13_ net-_u1-pad14_ net-_u3-pad3_ d_nand
* u9  net-_u3-pad3_ net-_u1-pad14_ net-_u15-pad2_ d_and
* u15  net-_u15-pad1_ net-_u15-pad2_ net-_u15-pad3_ d_nor
* u12  net-_u1-pad10_ net-_u12-pad2_ net-_u12-pad3_ d_and
* u5  net-_u1-pad10_ net-_u1-pad9_ net-_u12-pad2_ d_nand
* u13  net-_u12-pad2_ net-_u1-pad9_ net-_u13-pad3_ d_and
* u17  net-_u12-pad3_ net-_u13-pad3_ net-_u17-pad3_ d_nor
* u10  net-_u1-pad12_ net-_u10-pad2_ net-_u10-pad3_ d_and
* u4  net-_u1-pad12_ net-_u1-pad11_ net-_u10-pad2_ d_nand
* u11  net-_u10-pad2_ net-_u1-pad11_ net-_u11-pad3_ d_and
* u16  net-_u10-pad3_ net-_u11-pad3_ net-_u16-pad3_ d_nor
* u1  net-_u1-pad1_ net-_u1-pad2_ net-_u1-pad3_ net-_u1-pad4_ net-_u1-pad5_ net-_u1-pad6_ net-_u1-pad7_ ? net-_u1-pad9_ net-_u1-pad10_ net-_u1-pad11_ net-_u1-pad12_ net-_u1-pad13_ net-_u1-pad14_ net-_u1-pad15_ ? port
x7 net-_u1-pad14_ net-_u3-pad3_ net-_u14-pad3_ net-_x12-pad2_ 3_and
x8 net-_u1-pad11_ net-_u10-pad2_ net-_u14-pad3_ net-_u15-pad3_ net-_x12-pad3_ 4_and
x3 net-_u15-pad3_ net-_u10-pad2_ net-_u14-pad3_ net-_u1-pad12_ net-_x1-pad4_ 4_and
x2 net-_u14-pad3_ net-_u3-pad3_ net-_u1-pad13_ net-_x1-pad5_ 3_and
x6 net-_u16-pad3_ net-_u15-pad3_ net-_u14-pad3_ net-_u12-pad2_ net-_u1-pad10_ net-_x1-pad3_ 5_and
x5 net-_u1-pad4_ net-_u17-pad3_ net-_u16-pad3_ net-_u15-pad3_ net-_u14-pad3_ net-_x1-pad2_ 5_and
x4 net-_u1-pad3_ net-_u17-pad3_ net-_u16-pad3_ net-_u15-pad3_ net-_u14-pad3_ net-_x1-pad1_ 5_and
x11 net-_u14-pad3_ net-_u15-pad3_ net-_u16-pad3_ net-_u17-pad3_ net-_u1-pad3_ net-_x11-pad6_ 5_and
x10 net-_u14-pad3_ net-_u15-pad3_ net-_u16-pad3_ net-_u17-pad3_ net-_u1-pad2_ net-_x10-pad6_ 5_and
x9 net-_u1-pad9_ net-_u12-pad2_ net-_u14-pad3_ net-_u15-pad3_ net-_u16-pad3_ net-_x12-pad4_ 5_and
x13 net-_u14-pad3_ net-_u15-pad3_ net-_u1-pad3_ net-_u16-pad3_ net-_u17-pad3_ net-_u1-pad6_ 5_and
x12 net-_u19-pad3_ net-_x12-pad2_ net-_x12-pad3_ net-_x12-pad4_ net-_x10-pad6_ net-_x11-pad6_ net-_u1-pad5_ 5_nor
x1 net-_x1-pad1_ net-_x1-pad2_ net-_x1-pad3_ net-_x1-pad4_ net-_x1-pad5_ net-_u18-pad3_ net-_u1-pad7_ 5_nor
a1 [net-_u1-pad15_ net-_u18-pad2_ ] net-_u14-pad1_ u6
a2 [net-_u1-pad15_ net-_u1-pad1_ ] net-_u18-pad2_ u2
a3 [net-_u18-pad2_ net-_u1-pad1_ ] net-_u14-pad2_ u7
a4 [net-_u14-pad1_ net-_u14-pad2_ ] net-_u14-pad3_ u14
a5 [net-_u1-pad1_ net-_u18-pad2_ ] net-_u19-pad3_ u19
a6 [net-_u1-pad15_ net-_u18-pad2_ ] net-_u18-pad3_ u18
a7 [net-_u1-pad13_ net-_u3-pad3_ ] net-_u15-pad1_ u8
a8 [net-_u1-pad13_ net-_u1-pad14_ ] net-_u3-pad3_ u3
a9 [net-_u3-pad3_ net-_u1-pad14_ ] net-_u15-pad2_ u9
a10 [net-_u15-pad1_ net-_u15-pad2_ ] net-_u15-pad3_ u15
a11 [net-_u1-pad10_ net-_u12-pad2_ ] net-_u12-pad3_ u12
a12 [net-_u1-pad10_ net-_u1-pad9_ ] net-_u12-pad2_ u5
a13 [net-_u12-pad2_ net-_u1-pad9_ ] net-_u13-pad3_ u13
a14 [net-_u12-pad3_ net-_u13-pad3_ ] net-_u17-pad3_ u17
a15 [net-_u1-pad12_ net-_u10-pad2_ ] net-_u10-pad3_ u10
a16 [net-_u1-pad12_ net-_u1-pad11_ ] net-_u10-pad2_ u4
a17 [net-_u10-pad2_ net-_u1-pad11_ ] net-_u11-pad3_ u11
a18 [net-_u10-pad3_ net-_u11-pad3_ ] net-_u16-pad3_ u16
* Schematic Name: d_and, NgSpice Name: d_and
.model u6 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nand, NgSpice Name: d_nand
.model u2 d_nand(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u7 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u14 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u19 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u18 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u8 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nand, NgSpice Name: d_nand
.model u3 d_nand(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u9 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u15 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u12 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nand, NgSpice Name: d_nand
.model u5 d_nand(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u13 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u17 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u10 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nand, NgSpice Name: d_nand
.model u4 d_nand(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_and, NgSpice Name: d_and
.model u11 d_and(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
* Schematic Name: d_nor, NgSpice Name: d_nor
.model u16 d_nor(fall_delay=1.0e-9 input_load=1.0e-12 rise_delay=1.0e-9 ) 
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
